US06972340B2
methyl 3-(4-{[4-[(carboxycarbonyl)(2-carboxyphenyl)amino]-N-(methoxycarbonyl)-L-phenylalanyl]amino}butoxy)-1-hydroxy-2-naphthoate
To methyl 3-(4-{[4-{{2-[(benzhydryloxy)carbonyl]phenyl}[(benzyloxy)(oxo)acetyl]amino}-N-(methoxycarbonyl)-L-phenylalanyl]amino}butoxy)-1-hydroxy-2-naphthoate (32 mg, 0.033 mmol) in dioxane (1 mL) under N2 was added 10% Pd—C (5 mg) followed by 60% HClO4 (1 drop). The reaction was stirred under 1 atmosphere of H2 for 4 hours and filtered. The solution was applied to a reverse phase HPLC column and purified by eluting with 0% to 70% gradient of acetonitrile/0.1% aqueous trifluoroacetic acid to provide the titled compound (13 mg, 56%).

reactant | methyl 3-(4-{[4-{{2-[(benzhydryloxy)carbonyl]phenyl}[(benzyloxy)(oxo)acetyl]amino}-N-(methoxycarbonyl)-L-phenylalanyl]amino}butoxy)-1-hydroxy-2-naphthoate | 0.033 mmol, 32 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(C=CC=C1)N(C1=CC=C(C[C@H](NC(=O)OC)C(=O)NCCCCOC=2C(=C(C3=CC=CC=C3C2)O)C(=O)OC)C=C1)C(C(=O)OCC1=CC=CC=C1)=O | C56H51N3O12
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | Pd—C | 5 mg | [Pd] | Pd
product | methyl 3-(4-{[4-[(carboxycarbonyl)(2-carboxyphenyl)amino]-N-(methoxycarbonyl)-L-phenylalanyl]amino}butoxy)-1-hydroxy-2-naphthoate | 13 mg, 56% | C(=O)(O)C(=O)N(C1=CC=C(C[C@H](NC(=O)OC)C(=O)NCCCCOC=2C(=C(C3=CC=CC=C3C2)O)C(=O)OC)C=C1)C1=C(C=CC=C1)C(=O)O | C36H35N3O12
